US03983129
A mixture of 60 g of 3-hydrox-4-cyano-5-methyl-isothiazole and 150 ml of concentrated sulfuric acid (d = 1.838) was heated for 15 minutes at 113°C and after allowing the temperature to return to 45°C, the mixture was added to ice with stirring. The precipitate formed was recovered by vacuum filtration, was washed with water and then with acetone and dried to obtain 51.5 g of 3-hydroxy-4-carbamoyl-5-methyl-isothiazole melting at 248°-250°C.

reactant | 3-hydrox-4-cyano-5-methyl-isothiazole | 60 g | OC1=NSC(=C1C#N)C | C5H4N2OS
reactant | sulfuric acid | 150 ml | S(O)(O)(=O)=O | H2O4S
product | 3-hydroxy-4-carbamoyl-5-methyl-isothiazole | 51.5 g | OC1=NSC(=C1C(N)=O)C | C5H6N2O2S
